US07842688B2
c) Benzyl 3-[4-(3-methoxypropyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-4-{4-[2-(toluene-4-sulphonyloxy)ethoxy]phenyl}piperidinecarboxylate
Analogously to Method I, 0.417 g of benzyl 4-hydroxyphenyl-3-[4-(3-methoxypropyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidinecarboxylate and 0.984 g of ethylene di(p-toluenesulphonate) are reacted. The title compound is obtained as a colourless oil. Rf=0.31 (2:1 EtOAc-heptane); Rt=5.35.

reactant | benzyl 4-hydroxyphenyl-3-[4-(3-methoxypropyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidinecarboxylate | 0.417 g | OC1=CC=C(C=C1)C1N(CCCC1OCC=1C=CC2=C(N(C(CO2)=O)CCCOC)C1)C(=O)OCC1=CC=CC=C1 | C32H36N2O7
reactant | ethylene di(p-toluenesulphonate) | 0.984 g | C1(=CC=C(C=C1)S(=O)(=O)OCCOS(=O)(=O)C1=CC=C(C=C1)C)C | C16H18O6S2
product | Benzyl 3-[4-(3-methoxypropyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-4-{4-[2-(toluene-4-sulphonyloxy)ethoxy]phenyl}piperidinecarboxylate | COCCCN1C(COC2=C1C=C(C=C2)COC2CN(CCC2C2=CC=C(C=C2)OCCOS(=O)(=O)C2=CC=C(C=C2)C)C(=O)OCC2=CC=CC=C2)=O | C41H46N2O10S
